US06867323B2
Preparation of (E)-Dimethyl-(1-heptenyl)silanol (E)-50
To a solution of (E)-1-bromo-1-heptene (5.313 g, 30.0 mmol) in dry ether (30 mL) under dry N2 at −78° C., t-butyllithium (38.7 mL, 60 mmol, 1.55M) was added over 10 min. The reaction mixture was stirred at −78° C. for 1 h. The hexamethylcyclotrisiloxane (2.225 g, 10.0 mmol) in dry ether (30 mL) was then added over 5 min at −78° C. The reaction was warmed to room temperature and stirred for 24 h. The solution was then cooled to 0° C. and quenched with water (30 mL). The aqueous phase was extracted with ether (3×10 mL) and the combined organic phases were washed with water (1×10 mL) and brine (3×30 mL). The organic layer was dried with magnesium sulfate (anhydrous) and filtered. The solvent was then evaporated in vacuo to give a yellow oil which was purified by distillation to afford 3.836 g (74%) of (E)-50 (3.836 g, 74%) as a colorless oil.

reactant | (E)-1-bromo-1-heptene | 30.0 mmol, 5.313 g | Br\C=C\CCCCC | C7H13Br
reactant | t-butyllithium | 60 mmol, 1.55M, 38.7 mL | C(C)(C)(C)[Li]
reactant | hexamethylcyclotrisiloxane | 10.0 mmol, 2.225 g | C[Si]1(O[Si](O[Si](O1)(C)C)(C)C)C | C6H18O3Si3
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | ether | 30 mL | CCOCC | C4H10O
product | (E)-Dimethyl-(1-heptenyl)silanol | C[Si](O)(\C=C\CCCCC)C | C9H20OSi
